US07108895B2
35 ml of tetrahydrofuran (THF) was added to 11.6 g (0.48 mol) of magnesium, and a solution having 23.6 g (0.22 mol) of ethyl bromide dissolved in 70 ml of THF was dropwise added thereto over a period of 1 hour at room temperature with stirring, followed by stirring for 1 hour. A solution having 50.0 g (0.22 mol) of (R)-2-phenyl-1-(4-chlorophenyl)propane dissolved in 50 ml of THF was dropwise added thereto over a period of 30 minutes at room temperature, followed by stirring under reflux for 5 hours. After the mixture was cooled to room temperature, 250 ml of THF was added thereto, and the mixture was further cooled to −30° C. A solution having 112 g (0.44 mol) of iodine dissolved in 300 ml of THF was dropwise added thereto at −30° C. over a period of 30 minutes, followed by stirring for 1 hour. The temperature was raised to 0° C., and 120 ml of 4M hydrochloric acid was dropwise added thereto, followed by stirring for 10 minutes. After extraction with toluene from the reaction liquid, washing with water and drying were carried out to obtain 69.8 g of (R)-2-phenyl-1-(4-iodophenyl)propane (GC purity: 95.2%, 0.22 mol).

reactant | magnesium | 0.48 mol, 11.6 g | [Mg] | Mg
reactant | ethyl bromide | 0.22 mol, 23.6 g | C(C)Br | C2H5Br
reactant | (R)-2-phenyl-1-(4-chlorophenyl)propane | 0.22 mol, 50.0 g | C1(=CC=CC=C1)[C@@H](CC1=CC=C(C=C1)Cl)C | C15H15Cl
reactant | iodine | 0.44 mol, 112 g | II | I2
reactant | hydrochloric acid | 4M, 120 ml | Cl | ClH
solvent | THF | 70 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 300 ml | O1CCCC1 | C4H8O
solvent | THF | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | (R)-2-phenyl-1-(4-iodophenyl)propane | 0.22 mol, 69.8 g | C1(=CC=CC=C1)[C@@H](CC1=CC=C(C=C1)I)C | C15H15I
